US07470689B2
e) 4-(6-Chloro-1H-benzimidazol-2-yl)-6-(4-hydroxy-3,5-dimethylphenyl)-2H-pyridazin-3-one
4-[6-Chloro-1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-6-(4-hydroxy-3,5-dimethylphenyl)-2-(2-trimethylsilanylethoxymethyl)-2H-pyridazin-3-one is stirred in dichloromethane:trifluoroacetic acid/1:1 at RT for 30 min. The solvent is stripped off in vacuo, and the residue is dissolved in methanol, and 2M sodium hydroxide solution is added. The solution is stirred at RT for 30 min. After the reaction is complete, water is added and 2N hydrochloric acid is used for acidification. The precipitated product is filtered off with suction and purified by column chromatography (RP-HPLC, gradient of 0-100% acetonitrile in water (+0.01% trifluoroacetic acid)).

reactant | 4-[6-Chloro-1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-6-(4-hydroxy-3,5-dimethylphenyl)-2-(2-trimethylsilanylethoxymethyl)-2H-pyridazin-3-one | ClC=1C=CC2=C(N(C(=N2)C=2C(N(N=C(C2)C2=CC(=C(C(=C2)C)O)C)COCC[Si](C)(C)C)=O)COCC[Si](C)(C)C)C1 | C31H43ClN4O4Si2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 2M | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 4-(6-Chloro-1H-benzimidazol-2-yl)-6-(4-hydroxy-3,5-dimethylphenyl)-2H-pyridazin-3-one | ClC=1C=CC2=C(NC(=N2)C=2C(NN=C(C2)C2=CC(=C(C(=C2)C)O)C)=O)C1 | C19H15ClN4O2
